US05629325
66a. 5-Bromo-6-chloro-3-(1-BOC-2-(S)-azetidinylmethoxy)pyridine (50722-136)
To a solution of diethyl azodicarboxylate (1.52 mL, 9.6 mmol) in THF (56 mL) was added triphenylphosphine (2.52 g, 9.6 mmol) at 0° C., and the reaction mixture was stirred for half an hour. 1-BOC-2-(S)-azetidinemethanol (1.44 g, 7.7 mmol) and 5-bromo-6-chloropyridine-3-ol (1.4 g, 6.4 mmol; prepared according to V. Koch and S. Schnatterer, Synthesis 1990, 499-501)) were then added. The reaction mixture was slowly warmed up to room temperature overnight. Solvent was removed, and the residue was chromatographed on a silica gel column, eluting with chloroform:methanol 100:1 to afford the title compound. MS (DCI/NH3) m/z 377, 379 (M+H)+.

reactant | diethyl azodicarboxylate | 9.6 mmol, 1.52 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 9.6 mmol, 2.52 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-BOC-2-(S)-azetidinemethanol | 7.7 mmol, 1.44 g | C(=O)(OC(C)(C)C)N1[C@@H](CC1)CO | C9H17NO3
reactant | 5-bromo-6-chloropyridine-3-ol | 6.4 mmol, 1.4 g | BrC=1C=C(C=NC1Cl)O | C5H3BrClNO
solvent | THF | 56 mL | C1CCOC1 | C4H8O
product | 5-Bromo-6-chloro-3-(1-BOC-2-(S)-azetidinylmethoxy)pyridine | BrC=1C=C(C=NC1Cl)OC[C@H]1N(CC1)C(=O)OC(C)(C)C | C14H18BrClN2O3
